US08557872B2
Step 1: Synthesis of 2-sec-butoxy-N-methoxy-N-methyl-4-trifluoromethyl-benzamide
A mixture of 2-hydroxy-4-trifluoromethyl-benzoic acid (300 mg, 1.45 mmol) in DMF was added potassium carbonate (442 mg, 3.20 mmol) followed by 2-iodobutane (589 mg, 3.2 mmol). The mixture was stirred for 48 hours at 110° C. and then diluted with EtOAc. The organic layer was washed with 1N HCl, water, and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The crude residue was dissolved in THF (2 ml) and then added a solution of 0.5 N-LiOH (2 eq). The mixture was stirred for 2 hours at room temperature and then diluted with EtOAc. The organic layer was washed with 1N HCl, water, and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The crude residue and N,O-dimethylhydroxylamine hydrochloride (316 mg, 0.16 mmol) in CH2Cl2 (5 mL) was added N-methylmorpholine (0.176 ml, 0.160 mmol). The mixture was stirred for 5 minutes, to which were added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (316 mg, 0.160 mmol). The mixture was stirred for 2 hours at room temperature and then diluted with EtOAc. The organic layer was washed with 1N HCl, water, and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The crude residue was purified by chromatography to give the title compound. (374 mg, 84%).

reactant | 2-hydroxy-4-trifluoromethyl-benzoic acid | 1.45 mmol, 300 mg | OC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H5F3O3
reactant | potassium carbonate | 3.20 mmol, 442 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodobutane | 3.2 mmol, 589 mg | IC(C)CC | C4H9I
reactant | LiOH | 2 eq | [Li+].[OH-]
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.16 mmol, 316 mg | Cl.CNOC
reactant | N-methylmorpholine | 0.160 mmol, 0.176 ml | CN1CCOCC1 | C5H11NO
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.160 mmol, 316 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-sec-butoxy-N-methoxy-N-methyl-4-trifluoromethyl-benzamide | C(C)(CC)OC1=C(C(=O)N(C)OC)C=CC(=C1)C(F)(F)F | C14H18F3NO3
